US08802697B2
Synthesis of ethyl 2-(3,5-dimethoxyphenyl)-2-oxoacetate
To a solution of 1-bromo-3,5-dimethoxybenzene (2.17 g, 10 mmol) in THF (15 mL) was dropwise added n-butyl lithium (8 mL, 2.5 mol/L in hexane, 20 mmol) at −78′C. After stirring for 50 mins at −78° C., a solution of diethyl oxalate (4 g, 27 mmol) in THF (10 mL) was added. The mixture was stirred at −78° C. for another 4 h, then quenched with saturated ammonium chloride and extracted with ethyl acetate (50 mL*3). The organic layers were combined, washed by brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel to give the title compound (1.7 g, 71%). MS (ES+) C12H14O5 requires: 238. found: 239 [M+H]+.

reactant | 1-bromo-3,5-dimethoxybenzene | 10 mmol, 2.17 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | n-butyl lithium | 20 mmol, 2.5 mol/L, 8 mL | C(CCC)[Li]
reactant | diethyl oxalate | 27 mmol, 4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 2-(3,5-dimethoxyphenyl)-2-oxoacetate | 1.7 g, 71% | COC=1C=C(C=C(C1)OC)C(C(=O)OCC)=O | C12H14O5
